### PR TITLE
refactor: generalize IsIntegrallyClosed away from fraction fields

### PR DESCRIPTION
**Pull request by Vierkantor**
Instead of saying `IsIntegrallyClosed R` means the ring `R` contains all integral elements of the ring of fractions, we follow, as suggested by @alreadydone in the review for #6126, the convention by the Stacks project and paramerize over an arbitrary algebra `A`: `IsIntegrallyClosed R A` means `R` contains all integral elements of `A`.
    
Most results generalize straightforwardly. The general algorithm: if the fraction field is already there, use that. Otherwise use `FractionRing R`.

TODO: generalize away from `IsFractionRing` if they are not needed.

---

- [x] depends on: #6126

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 1]
```diff
@@ -117,29 +168,38 @@ theorem integralClosure_eq_bot_iff : integralClosure R K = ⊥ ↔ IsIntegrallyC
...
 
-namespace integralClosure
+end Algebra
 
-open IsIntegrallyClosed
+section Injective
 
-variable {R : Type*} [CommRing R]
+-- TODO: this section can be generalized from `IsFractionRing` to any `Algebra` that is injective,
+-- but there is no way to hook that assumption up to the typeclass system.
```
Comment (ericrbg) [inline Mathlib/RingTheory/IntegrallyClosed.lean:181]: iirc, it's `NoZeroSmulDivisors`

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 2]
```diff
@@ -11,102 +11,153 @@ import Mathlib.RingTheory.Localization.Integral
...
       rintro ⟨y, y_eq⟩
       rw [← y_eq]
       exact isIntegral_algebraMap
     · rintro ⟨-, cl⟩ x hx
       exact cl.mp hx
 #align is_integrally_closed_iff_is_integral_closure isIntegrallyClosed_iff_isIntegralClosure
 
+variable {A' : Type*} [CommRing A'] [Algebra R A']
+
+theorem AlgebraMap.isIntegrallyClosed (f : A →ₐ[R] A') (hf : Function.Injective ↑f)
```
Comment (alreadydone) [inline Mathlib/RingTheory/IntegrallyClosed.lean:99]:
```suggestion
theorem AlgebraMap.isIntegrallyClosed (f : A →ₐ[R] A') (hf : Function.Injective f)
```

File: Mathlib/RingTheory/IntegrallyClosed.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/IntegrallyClosed.lean:181]: The identity homomorphism from R to itself is injective but wouldn't satisfy `NoZeroSmulDivisors` if R has zero divisors.

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 3]
```diff
@@ -11,102 +11,153 @@ import Mathlib.RingTheory.Localization.Integral
...
+quite a few results that can be moved wholesale to a new `NormalDomain` definition.
+In fact, before PR #6126 `IsIntegrallyClosed` was exactly defined to be a normal domain.
+(So you might want to copy some of its API when you define normal domains.)
+
+A normal ring means that localizations at all prime ideals are normal domains.
+[Stacks: normal ring](https://stacks.math.columbia.edu/tag/00GV)
+This implies integral closedness in its `FractionRing`,
+[Stacks: Lemma 10.37.12](https://stacks.math.columbia.edu/tag/034M)
+but is equivalent to it only under some conditions (reduced + finitely many minimal primes),
+[Stacks: Lemma 10.37.16](https://stacks.math.columbia.edu/tag/034M)
```
Comment (alreadydone) [inline Mathlib/RingTheory/IntegrallyClosed.lean:45]: I think links that jump to the def/lemmas *within* the section should be preferred (though these aren't perfect yet as the def/lemmas get covered beneath the header). Also, referring to the tag should be more robust, as the numbering may change.
```suggestion
[Stacks: normal domain](https://stacks.math.columbia.edu/tag/037B#0309)
Normal domains are the major use case of `IsIntegrallyClosed` at the time of writing, and we have
quite a few results that can be moved wholesale to a new `NormalDomain` definition.
In fact, before PR #6126 `IsIntegrallyClosed` was exactly defined to be a normal domain.
(So you might want to copy some of its API when you define normal domains.)

A normal ring means that localizations at all prime ideals are normal domains.
[Stacks: normal ring](https://stacks.math.columbia.edu/tag/037B#00GV)
This implies integral closedness in its `FractionRing`,
[Stacks: Tag 034M](https://stacks.math.columbia.edu/tag/037B#034M)
but is equivalent to it only under some conditions (reduced + finitely many minimal primes),
[Stacks: Tag 030C](https://stacks.math.columbia.edu/tag/037B#030C)
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/IntegrallyClosed.lean (hunk 1 above)
Comment (ericrbg) [reply Mathlib/RingTheory/IntegrallyClosed.lean:181]: ah, indeed, I just remember using it in flt-reg for that purpose but that's just because we were dealing with domains at all times

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 4]
```diff
@@ -730,7 +730,7 @@ end IsAdjoinRoot
 
 namespace IsAdjoinRootMonic
 
-theorem minpoly_eq [IsDomain R] [IsDomain S] [NoZeroSMulDivisors R S] [IsIntegrallyClosed R]
+theorem minpoly_eq [IsDomain R] [IsDomain S] [NoZeroSMulDivisors R S] [IsIntegrallyClosed R (FractionRing R)]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/IsAdjoinRoot.lean:733]:
```suggestion
theorem minpoly_eq [IsDomain R] [IsDomain S] [NoZeroSMulDivisors R S]
    [IsIntegrallyClosed R (FractionRing R)]
```

File: Mathlib/RingTheory/IntegrallyClosed.lean [hunk 5]
```diff
@@ -11,102 +11,153 @@ import Mathlib.RingTheory.Localization.Integral
...
+    IsIntegrallyClosed R A ↔ IsIntegrallyClosed R A' :=
+  ⟨AlgebraMap.isIntegrallyClosed e.symm e.symm.injective,
+   AlgebraMap.isIntegrallyClosed e e.injective⟩
+
+end Algebra
+
+section FractionRing
+
+variable (K : Type*) [Field K] [Algebra R K] [IsFractionRing R K]
+variable (K' : Type*) [Field K'] [Algebra R K'] [IsFractionRing R K']
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/RingTheory/IntegrallyClosed.lean]: Good point, the whole point of the previous PR is to stop assuming `R` is a domain :D

File: Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean [hunk 6]
```diff
@@ -71,7 +71,7 @@ end
 
 variable [IsDomain S] [NoZeroSMulDivisors R S]
 
-variable [IsIntegrallyClosed R]
+variable [IsIntegrallyClosed R (FractionRing R)]
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean:74]: Shouldn't we introduce a name for this? Can we call these rings "normal"?

Comment (alreadydone) [reply Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean:74]: Normal implies `IsIntegrallyClosed R (FractionRing R)` but also IsReduced according to Stacks' definition.
Maybe we could call this generalized version `IsIntegrallyClosedIn` and let `IsIntegrallyClosed R := IsIntegrallyClosedIn R (FractionRing R)`, so the definition of `IsIntegrallyClosed` remains unchanged. To be honest I don't see much use of `IsIntegrallyClosedIn` yet ...

**Comment by Vierkantor** [comment]
Coming back to this, I indeed don't see a direct application for the changes. However, the integral closure machinery in Mathlib still feels somewhat messy at the moment so I'd like to spend some time figuring out how to make it better.

Continuing along Junyan's suggestion, can't we define `IsIntegrallyClosedIn R A := IsIntegralClosure R R A` and then `IsIntegrallyClosed R := IsIntegrallyClosedIn R (FractionRing R)`? I expect that would integrate the different classes in a neater way. I don't know if aliases or defs would be the best mechanisms.

**Comment by Vierkantor** [comment]
Closing in favour of #7857.
